US08426437B2
8-[Cyclopropyl-(1H-imidazol-4-ylmethyl)-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid is prepared according to synthesis 178, from 284 mg (0.87 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid, 605 μL (4.35 mmol) of triethylamine and 309 mg (1.3 mmol) of cyclopropyl-(1-tert-butoxycarbonyl-1H-imidazol-4-ylmethyl)-amine to give, after purification by precipitation and trituration in water, 350 mg (76%) of 8-[cyclopropyl-(1H-imidazol-4-ylmethyl)-sulfamoyl]-4-oxo-4,5-dihydro-3H -pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a beige solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.87 mmol, 284 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | triethylamine | 4.35 mmol, 605 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropyl-(1-tert-butoxycarbonyl-1H-imidazol-4-ylmethyl)-amine | 1.3 mmol, 309 mg | C1(CC1)NCC=1N=CN(C1)C(=O)OC(C)(C)C | C12H19N3O2
product | 8-[Cyclopropyl-(1H-imidazol-4-ylmethyl)-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | C1(CC1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O)CC=3N=CNC3 | C19H17N5O5S
